US07151105B2
4-[2-(2-Cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorobenzoic acid
Methyl 4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorobenzoate (example B(5)) (300 mg) was treated with 4N NaOH (10 ml) and stirred for 4 hrs at room temperature. The mixture was then acidified with 1N HCl (20 ml) and the product was extracted with ethyl acetate (2×20 ml). The combined organic layers were dried over magnesium sulfate and concentrated to a solid. The solid was recrystallised from diethyl ether to afford the title compound as a white solid (120 mg). 1H NMR (300 MHz, MeOD): δ 1.38–2.30 (m, 11 H), 2.80–3.12 (m, 6 H), 6.91 (d, J=7.19 Hz, 1 H), 7.17 (m, 1 H), 7.86 (d, J=719 Hz, 1 H)

reactant | Methyl 4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorobenzoate | 300 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C(=O)OC)C=C1)F | C20H23FO5
reactant | NaOH | 4N, 10 ml | [OH-].[Na+]
solvent | HCl | 1N, 20 ml | Cl | ClH
product | 4-[2-(2-Cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorobenzoic acid | 120 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C(=O)O)C=C1)F | C19H21FO5
